* C:\Users\Mohammad Amash\Documents\LTspice\Schmitt Trigger.asc
* Generated by LTspice 24.1.9 for Windows.
X§U1 N001 Input ps ns Output ua741
R1 N001 0 10K
R2 Output N001 40K
V1 Input 0 PULSE(-3 3 0 1m 1m 0.001m 2m)
vdd ps 0 DC 12
vss ns 0 DC -12
.tran 3m
.include ua741.txt
.backanno
.end
